US04616086
Ethyl 4-{2-[1-(4-methoxybenzyl)-piperazin-4-yl]-ethyl}-benzoate
A mixture of 250 ml. butan-2-one, 15.47 g. (75 mmole) 1-(4-methoxybenzyl)-piperazine, 19.3 g. (75 mmole) ethyl 4-(2-bromoethyl)-benzoate and 20.7 g. (0.15 mole) powdered potassium carbonate is maintained at reflux temperature for 60 hours, then suction filtered while hot and the filtrate evaporated in a vacuum. After the addition of diethyl ether, the product crystallises, the yield being 17.5 g. (61% of theory) of the desired product; m.p. 75°-76° C. The hydrochloride is precipitated from the filtrate by means of hydrogen chloride-containing diethyl ether. After recrystallisation from aqueous ethanol, there are obtained 7.6 g. (23% of theory) of the desired product; m.p. 280°-281° C.

reactant | 1-(4-methoxybenzyl)-piperazine | 75 mmole | COC1=CC=C(CN2CCNCC2)C=C1 | C12H18N2O
reactant | ethyl 4-(2-bromoethyl)-benzoate | 75 mmole | BrCCC1=CC=C(C(=O)OCC)C=C1 | C11H13BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | butan-2-one | CC(CC)=O | C4H8O
product | Ethyl 4-{2-[1-(4-methoxybenzyl)-piperazin-4-yl]-ethyl}-benzoate | COC1=CC=C(CN2CCN(CC2)CCC2=CC=C(C(=O)OCC)C=C2)C=C1 | C23H30N2O3
